US04898871
The procedure is as in Example 44, but starting with [2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]acetic acid (3 g) in anhydrous dimethylformamide (65 cc), N,N'-carbonyldiimidazole (1.35 g) and 1,4-dioxa-8-azaspiro[4.5]decane (1 g). After two successive recrystallizations in carbon tetrachloride and isopropyl ether, 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-[2-(4-ethylenedioxypiperidino)-2-oxoethoxy]-1-isoindolinone (2.8 g), m.p. 137° C., is obtained.

reactant | [2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]acetic acid | 3 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)OCC(=O)O | C19H15N3O5
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 1 g | O1CCOC12CCNCC2 | C7H13NO2
solvent | dimethylformamide | 65 cc | CN(C=O)C | C3H7NO
product | 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-[2-(4-ethylenedioxypiperidino)-2-oxoethoxy]-1-isoindolinone | 2.8 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OCC(=O)N1CCC2C(C1)OCCO2)=O | C26H26N4O6
